US08802697B2
Synthesis of N-(1-(2-((2-nitrophenyl)amino)pyrimidin-4-yl)piperidin-3-yl)propane-1-sulfonamide
To a solution tert-butyl(1-(2-((2-nitrophenyl)amino)pyrimidin-4-yl)piperidin-3-yl)carbamate (0.14 g, 0.34 mmol) in DCM (2.0 mL) was added TFA (1.0 mL) and the mixture was stirred for 1 h. An aliquot of the reaction mixture was analyzed by LCMS, which indicated that the reaction had proceeded to completion. The solvents were removed and the residue was dried on high vacuum. The crude product was used for the next step without further purification. To a solution of 4-(3-aminopiperidin-1-yl)-N-(2-nitrophenyl)pyrimidin-2-amine (0.34 mmol) in DCM (3.5 mL) at 0° C. was added propane-1-sulfonyl chloride (0.045 mL, 0.4 mmol) and triethylamine (0.12 mL, 0.85 mmol) and the mixture was warmed to room temperature overnight. The crude reaction mixture was concentrated and purified by flash chromatography (0-7.5% MeOH/DCM) to give the title compound (36 mg, 24% yield). MS (ES+) C18H24N6O4S requires: 420. found: 421 [M+H]+.

reactant | tert-butyl(1-(2-((2-nitrophenyl)amino)pyrimidin-4-yl)piperidin-3-yl)carbamate | 0.34 mmol, 0.14 g | C(C)(C)(C)OC(NC1CN(CCC1)C1=NC(=NC=C1)NC1=C(C=CC=C1)[N+](=O)[O-])=O | C20H26N6O4
reactant | TFA | 1.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-(3-aminopiperidin-1-yl)-N-(2-nitrophenyl)pyrimidin-2-amine | 0.34 mmol | NC1CN(CCC1)C1=NC(=NC=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C15H18N6O2
reactant | propane-1-sulfonyl chloride | 0.4 mmol, 0.045 mL | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | triethylamine | 0.85 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 2.0 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
product | N-(1-(2-((2-nitrophenyl)amino)pyrimidin-4-yl)piperidin-3-yl)propane-1-sulfonamide | 36 mg, 24% yield | [N+](=O)([O-])C1=C(C=CC=C1)NC1=NC=CC(=N1)N1CC(CCC1)NS(=O)(=O)CCC | C18H24N6O4S
